US04801705
(F) [3S(Z)]-2-[[[1-(2-Amino-4-thiazolyl)-2-[[1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy-2-methylpropanoic acid, diphenylmethyl ester
Into a -30° C. cold mixture of 0.66 g (1.5 mmol) of (Z)-2-amino-α-[[1-(diphenylmethoxycarbonyl)-1-methylethoxy]imino]-4-thiazoleacetic acid in 13 ml of dry dimethylformamide, 0.63 ml (4.5 mmol) of triethylamine was dropped, followed by 0.33 ml (1.5 mmol) of diphenylchlorophosphate. After stirring at -30° C. for 1 hour, 0.42 ml (3.0 mmol) of triethylamine was dropped in, followed by the addition of 0.80 g (1.5 mmol) of (S)-3-amino-1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxoazetidine. The mixture was stirred for 2 hours at -10° C. and an additional 2 hours at 0° C. The solvent was removed in vacuo and the residue was taken up in a few ml of ethyl acetate and ice water. The pH of the mixture was corrected to pH=2 the addition of dilute hydrochloric acid. The insoluble material was collected by suction1) and stirred with a few ml of ethyl acetate until it became crystalline; yield after drying in vacuo: 0.31 g. This material was used in the next step without further purification.

reactant | (Z)-2-amino-α-[[1-(diphenylmethoxycarbonyl)-1-methylethoxy]imino]-4-thiazoleacetic acid | 1.5 mmol, 0.66 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)(C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21N3O5S
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylchlorophosphate | 1.5 mmol, 0.33 ml | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | triethylamine | 3.0 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-3-amino-1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxoazetidine | 1.5 mmol, 0.80 g | N[C@@H]1C(N(C1)C(=O)NS(=O)(=O)NNC(=O)NC1=CC(=C(C=C1)O)O)=O | C11H14N6O7S
reactant | ethyl acetate | ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | [[1-(2-Amino-4-thiazolyl)-2-[[1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy-2-methylpropanoic acid, diphenylmethyl ester | NC=1SC=C(N1)C(C(=O)NC1C(N(C1)C(=O)NS(=O)(=O)NNC(=O)NC1=CC(=C(C=C1)O)O)=O)=NOC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C33H33N9O11S2
